### PR TITLE
[Merged by Bors] - feat(Algebra/Module): lemma for `spanFinrank` eq one

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR we added equivalent characterization of `spanFinrank` equal to one.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 1]
```diff
@@ -284,6 +284,20 @@ lemma spanFinrank_singleton {m : M} (hm : m ≠ 0) : (span R {m}).spanFinrank =
...
+      contrapose h
+      simp [Submodule.spanFinrank_of_not_fg h]
+    obtain ⟨a, ha⟩ : ∃ a, p.generators = {a} := by simpa [← fg.generators_ncard] using h
+    exact ⟨a, ha ▸ (p.span_generators).symm⟩
+  · contrapose h
+    simp [h]
+  · rcases prin with ⟨a, rfl⟩
+    apply Submodule.spanFinrank_singleton
+    contrapose ne
+    simp [ne]
```
Comment (Whysoserioushah) [inline Mathlib/Algebra/Module/SpanRank.lean]:
```suggestion
lemma spanFinrank_eq_one_iff (p : Submodule R M) : p.spanFinrank = 1 ↔ p.IsPrincipal ∧ p ≠ ⊥ := by
  refine ⟨fun h ↦ ⟨?_, (by grind [spanFinrank_bot])⟩, 
    fun ⟨⟨a, ha⟩, _⟩ ↦ ha ▸ spanFinrank_singleton (by simp_all)⟩
  have fg : p.FG := spanRank_finite_iff_fg.1 (by simp_all [spanFinrank])
  obtain ⟨a, ha⟩ : ∃ a, p.generators = {a} := by simpa [← fg.generators_ncard] using h
  exact ⟨a, ha ▸ (p.span_generators).symm⟩
```
probably you should also add lemmas like `fg_iff_finrank_pos `

**Review by Whysoserioushah — APPROVED** [review]

File: Mathlib/Algebra/Module/SpanRank.lean (hunk 1 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Module/SpanRank.lean]: Isn't this a contrapose to `Submodule.spanFinrank_eq_zero_iff_eq_bot`? Or we would like a `spanFinrank` ne zero iff fg and not bot?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
